US06211234B1
A solution of ethyl (RS)-4-[2-(4,5-dihydrooxazol-2-yl)-5- (3-thienylmethoxy)phenoxy]-4-(2-methylphenyl)butanoate (900 mg) and nickel peroxide (5.04 g) in toluene (50 mL) is stirred at 100° C. for 2 hours. The reaction is left at ambient temperature for 16 hours then filtered through a pad of hyflo and the filtrate concentrated in vacuo. The residue is purified by flash chromatography on silica eluting with a mixture of ethyl acetate and cyclohexane (15:85 v/v). Fractions homogeneous in the required product are combined and evaporated to give ethyl (RS)-4-[2-(oxazol-2-yl)-5-(3-thienylmethoxy)phenoxy]-4-(2-methylphenyl)butanoate (140 mg) and starting material (400 mg).

reactant | ethyl (RS)-4-[2-(4,5-dihydrooxazol-2-yl)-5- (3-thienylmethoxy)phenoxy]-4-(2-methylphenyl)butanoate | 900 mg | O1C(=NCC1)C1=C(OC(CCC(=O)OCC)C2=C(C=CC=C2)C)C=C(C=C1)OCC1=CSC=C1 | C27H29NO5S
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | nickel peroxide | 5.04 g | [O-2].[O-2].[O-2].[Ni+3].[Ni+3]
product | ethyl (RS)-4-[2-(oxazol-2-yl)-5-(3-thienylmethoxy)phenoxy]-4-(2-methylphenyl)butanoate | 140 mg | O1C(=NC=C1)C1=C(OC(CCC(=O)OCC)C2=C(C=CC=C2)C)C=C(C=C1)OCC1=CSC=C1 | C27H27NO5S
